US03968117
2,6-Dimethyl-4-[4-(2-ethoxycarbonylprop-2-oxy)phenyl]-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester. ##SPC17##
A solution of 2.3 g of sodium in 120 ml of alcohol is treated with 34.5 g of 2,6-dimethyl-4-(4-hydroxyphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester and with 21.5 g of α-bromo-isobutyric acid ethyl ester added from a dropping funnel. The mixture is boiled overnight, added to water and extracted with ether. White crystals of melting point 215°C (benzene) are obtained from the evaporation residue.

reactant | sodium | 2.3 g | [Na] | Na
reactant | 2,6-dimethyl-4-(4-hydroxyphenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | 34.5 g | C(C)OC(=O)C1=C(NC(=C(C1C1=CC=C(C=C1)O)C(=O)OCC)C)C | C19H23NO5
reactant | α-bromo-isobutyric acid ethyl ester | 21.5 g | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
solvent | water | O | H2O
product | 2,6-Dimethyl-4-[4-(2-ethoxycarbonylprop-2-oxy)phenyl]-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(NC(=C(C1C1=CC=C(C=C1)OC(C)(C)C(=O)OCC)C(=O)OCC)C)C | C25H33NO7
